US09169259B2
A suspension of 6-chloro-N-(5,6-dimethoxypyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (1.3 g, 4.24 mmol) and tert-butyl piperidin-3-ylcarbamate (3.4 g, 16.99 mmol) was heated to 160° C. for 2 h. The residue was purified by chromatography (silica gel, 200-300 mesh, dichloromethane:MeOH=120:1) to give the tert-butyl 1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)piperidin-3-ylcarbamate (300 mg, 15%) as brown solid. LC-MS: 470 [M+1]+, tR=1.44 min

reactant | 6-chloro-N-(5,6-dimethoxypyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 4.24 mmol, 1.3 g | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=C(C=C2)OC)OC | C13H12ClN5O2
reactant | tert-butyl piperidin-3-ylcarbamate | 16.99 mmol, 3.4 g | N1CC(CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
product | tert-butyl 1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)piperidin-3-ylcarbamate | 300 mg, 15% | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)N1CC(CCC1)NC(OC(C)(C)C)=O)C=CN2 | C23H31N7O4
